Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
fever, headache, and body rash
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ male with history of testicular cancer, PUD, 
eosinophilic esophagitis referred in from ___ urgent care for 
evaluation of fever and migratory rash. 

He was hiking in ___ 2 weeks ago and had a bite from 
an unknown creature on the posterior aspect of his proximal 
leftcalf. There was local swelling and erythema, and he started 
a 10 day course of cephalexin. He initially felt better and has 
been fairly active over most the last 2 weeks. However, he 
worsened over the last 48 hours, developing recurrent fever, 
generalized fatigue and malaise, neck pain and headache, and a 
migratory rash
that includes patches of erythema that is blanching over his 
chest, back, left knee. He does not have any involvement of the 
palms and soles. He went to ___ a urgent care this morning and 
got an intramuscular shot of ceftriaxone, states he has been 
feeling significantly worse since the shot.

 
Past Medical History:
GI ulcers and Eosinophilic Esophagitis 3 months ago on EGD  

 
Social History:
___
Family History:
No family hx of GI ulcers, cancers
 
Physical Exam:
VS: 98.0 PO 126 / 73 102 18 96 Ra 
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi 
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly appreciated 
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose, strength 
and
sensation intact 
SKIN: L popliteal fossa, trunk and back with blanching, warm,
erythematous patches up to 20 x 20 cm on the chest and abdomen
and back, and left leg without any raised component, does not
involve palms or soles

 
Pertinent Results:
___ 09:49PM CEREBROSPINAL FLUID (CSF)  PROTEIN-61* 
GLUCOSE-52
___ 09:49PM CEREBROSPINAL FLUID (CSF)  TNC-1 RBC-2 POLYS-0 
___ ___ 06:05PM   LACTATE-2.1*
___ 05:56PM   ___ PTT-27.8 ___
___ 05:50PM   GLUCOSE-88 UREA N-13 CREAT-0.8 SODIUM-140 
POTASSIUM-4.4 CHLORIDE-98 TOTAL CO2-28 ANION GAP-14
___ 05:50PM   estGFR-Using this
___ 05:50PM   ALT(SGPT)-25 AST(SGOT)-36 CK(CPK)-607* ALK 
PHOS-80 TOT BILI-1.1 DIR BILI-0.3 INDIR BIL-0.8
___ 05:50PM   LIPASE-29
___ 05:50PM   ALBUMIN-4.5 CALCIUM-9.4 PHOSPHATE-2.7 
MAGNESIUM-1.8
___ 05:50PM   CRP-14.8*
___ 05:50PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 05:50PM URINE  HOURS-RANDOM
___ 05:50PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 05:50PM   WBC-12.0*# RBC-4.45* HGB-14.2# HCT-41.7# 
MCV-94# MCH-31.9# MCHC-34.1# RDW-12.4 RDWSD-42.6
___ 05:50PM   NEUTS-79.5* LYMPHS-8.4* MONOS-6.7 EOS-4.4 
BASOS-0.6 IM ___ AbsNeut-9.55* AbsLymp-1.01* AbsMono-0.81* 
AbsEos-0.53 AbsBaso-0.07
___ 05:50PM   HOS-AVAILABLE 
___ 05:50PM   HYPOCHROM-NORMAL ANISOCYT-NORMAL 
POIKILOCY-NORMAL MACROCYT-NORMAL MICROCYT-NORMAL 
POLYCHROM-NORMAL
___ 05:50PM   PLT COUNT-240
___ 05:50PM   PARST SMR-NEGATIVE
___ 05:50PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 05:50PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-8.0 
LEUK-NEG
 
Brief Hospital Course:
___ man with history of testicular cancer, PUD, 
eosinophilic esophagitis referred in from ___ urgent care for 
evaluation of fever and migratory rash. 

ACUTE ISSUES:
#tick-borne-illness/headache/fever/rash:
Patient presented with fevers and recent bug bite - unclear but 
felt to be tick. Initial differential diagnosis included tick 
borne illness, arbovirus infection, jarrex herxhemier reaction 
(worsening after CTX IM) and encephalitis/meningitis which seem 
less likely given lack of altered mental status. Even when 
considering a tick borne illness, it is possible that a 
co-infection may be present. Patient had no neurological 
symptoms. His liver function tests and lumbar puncture was 
inconsistent with meningitis in the ED. CSF cultures were drawn 
and found to have no lymphocytes. We started patient on 
doxycycline for presumptive lyme possible coinfection, planned 2
week course. Urine culture and parasite smear showed no growth 
of organisms as well. His lyme/anaplasma serology and blood 
cultures are still pending.

CHRONIC ISSUES:
#H/O eosinophilic esophagitis
#PUD
He is currently being followed for these issues as an outpatient 
and is not taking any medication

>35 minutes was spent on discharge process, including education, 
treatment and follow-up plans. 
 
Medications on Admission:
none
 
Discharge Medications:
1.  Doxycycline Hyclate 100 mg PO Q12H 
D1= ___ D14= ___ 
RX *doxycycline hyclate 100 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*25 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary/Active Diagnosis:
1. Tick-borne-illness

Secondary/Chronic Diagnosis:
2. Eosinophilic esophagitis
3. Peptic ulcer disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You came to ___ because you had a fever, headache, and body 
rash.  You were found to have an infection. While in the ED, you 
had a lumbar puncture and chest xray to determine the source of 
your infection and both diagnostic tests were negative. Due to 
your continuing symptoms, you were admitted to medicine. While 
on the floor you were given doxycycline for your infection and 
Tylenol for your fever and headache. You also had a variety of 
blood work drawn to determine the cause of your infection. Based 
on your recent travel history and clinical symptoms, we believe 
you have a tick-borne illness. You improved significantly on the 
doxycycline and we feel comfortable discharging you from the 
hospital while completing the antibiotic course and close follow 
up with your primary care physician. 

It was a pleasure participating in your care. We wish you the 
best!  

Sincerely,  

Your ___ Care Team 

 
Followup Instructions:
___